US09029360B2
6-(6-Bromo-pyrazolo[1,5-a]pyrimidine-2-carbonyl)-3,4,5,6,7,8-hexahydro-thiazolo[4,5-d]azepin-2-one
The title compound was prepared in accordance with the general method of example 1 from 6-Bromo-pyrazolo[1,5-A]pyrimidine-2-carboxylic acid and 3,4,5,6,7,8-hexahydro-thiazolo[4,5-d]azepin-2-one. The reaction mixture was purified by HPLC chromatography and lyophilized. Yield: 40 mg (49% of theory). ESI-MS: m/z=394 (M+H)+; Rt(HPLC): 1.11 min. (Method J).

reactant | 6-Bromo-pyrazolo[1,5-A]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 3,4,5,6,7,8-hexahydro-thiazolo[4,5-d]azepin-2-one | S1C(NC=2CCNCCC21)=O | C7H10N2OS
product | 6-(6-Bromo-pyrazolo[1,5-a]pyrimidine-2-carbonyl)-3,4,5,6,7,8-hexahydro-thiazolo[4,5-d]azepin-2-one | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2CCC1=C(CC2)SC(N1)=O | C14H12BrN5O2S
